US05856503
1.35 g of 7-(4-bromo-but-2-enyloxy)-4-(4-bromo-phenyl)-1H-benzo[d][1,2]oxazine are dissolved in 50 ml of acetone and treated with 3.83 ml of N-allyl-methyl-amine and 1.28 g of potassium carbonate. The mixture is stirred and subsequently filtered. After concentration the filtrate is chromatographed over silica gel with toluene/acetone/triethylamine (92:7:1). There are obtained 1.09 g of (E)-allyl-[4-[4-(4-bromo-phenyl)-1H-benzo[d][1,2]oxazin-7-yloxy]-but-2-enyl]-methyl-amine which is converted into the fumarate, MS: m/e 427 (M+H+, 1 Br).

reactant | 7-(4-bromo-but-2-enyloxy)-4-(4-bromo-phenyl)-1H-benzo[d][1,2]oxazine | 1.35 g | BrCC=CCOC1=CC2=C(C(=NOC2)C2=CC=C(C=C2)Br)C=C1 | C18H15Br2NO2
reactant | N-allyl-methyl-amine | 3.83 ml | C(C=C)NC | C4H9N
reactant | potassium carbonate | 1.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | (E)-allyl-[4-[4-(4-bromo-phenyl)-1H-benzo[d][1,2]oxazin-7-yloxy]-but-2-enyl]-methyl-amine | 1.09 g | C(C=C)N(C)C\C=C\COC1=CC2=C(C(=NOC2)C2=CC=C(C=C2)Br)C=C1 | C22H23BrN2O2
